US04066648
A mixture of 30 g of 2,3-dimethoxyphenethyl alcohol, 30 g of chloroacetaldehyde diethyl acetal and 50 ml of concentrated hydrochloric acid was heated at 60°-80° C for 1 hour and, after cooling, the reaction mixture was diluted with water. The resultant oily precipitate was extracted into ethyl acetate, rinsed with water, dehydrated and concentrated under reduced pressure. The residue was then recrystallized from petroleum ether. By the above procedure was obtained 33 g of 1-chloromethyl-5,6-dimethoxyisochroman as colorless needles, melting point: 63°-65° C.

reactant | 2,3-dimethoxyphenethyl alcohol | 30 g | COC1=C(CCO)C=CC=C1OC | C10H14O3
reactant | chloroacetaldehyde diethyl acetal | 30 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | O | H2O
product | 1-chloromethyl-5,6-dimethoxyisochroman | 33 g | ClCC1OCCC2=C(C(=CC=C12)OC)OC | C12H15ClO3
